US07985764B2
A 300 mg portion of ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylthio)-1H-indole-5-carboxylate was dissolved in 3 ml of chloroform, and 203 mg of 3-chloroperbenzoic acid was added under ice-cooling, followed by stirring at the same temperature for 1 hour. A saturated sodium bicarbonate aqueous solution was added to the reaction liquid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol:hexane=1:0:1 to 1:0:0 to 100:1:0 to 50:1:0 to 30:1:0) to obtain 279 mg of ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylsulfinyl)-1H-indole-5-carboxylate as a colorless solid.

reactant | ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylthio)-1H-indole-5-carboxylate | FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)OCC)SC)C)C=C1 | C20H20FNO2S
reactant | 3-chloroperbenzoic acid | 203 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylsulfinyl)-1H-indole-5-carboxylate | 279 mg | FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)OCC)S(=O)C)C)C=C1 | C20H20FNO3S
